US05430042
5-Acetyl-6-methyl-2-[[(3,4-ethylendioxy-2-pyridinyl)methyl]thio]-1H-benzimidazole
To a solution of 5-acetyl-6-methyl-2-mercapto-1H-benzimidazole (0.14 g, 0.66 mmol) in methanol (2 ml) aqueous NaOH (0.25 ml 5M, 1.25 mmol) and 3,4-ethylendioxy-2-chloromethyl pyridine hydrochloride (0.13 g, 0.60 mmol) dissolved in methanol (2 ml) were added in the given order. The mixture was refluxed for one hour whereupon the solution was evaporated. The residue was partitioned between methylene chloride and water. After separation the organic solution was dried over Na2SO4 and evaporated giving a yellow syrup (0.17 g, 81%).

reactant | 5-acetyl-6-methyl-2-mercapto-1H-benzimidazole | 0.66 mmol, 0.14 g | C(C)(=O)C1=CC2=C(NC(=N2)S)C=C1C | C10H10N2OS
reactant | 3,4-ethylendioxy-2-chloromethyl pyridine hydrochloride | 0.60 mmol, 0.13 g | Cl.C1OC=2C(=NC=CC2OC1)CCl
solvent | methanol | 2 ml | CO | CH4O
solvent | methanol | 1.25 mmol, 5M, 2 ml | CO | CH4O
product | 5-Acetyl-6-methyl-2-[[(3,4-ethylendioxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.17 g, 81% | C(C)(=O)C1=CC2=C(NC(=N2)SCC2=NC=CC3=C2OCCO3)C=C1C | C18H17N3O3S
